US09169254B2
Sodium hydride (60% oil suspension, 191 mg, 4.77 mmol) was added to a solution of 2,2,2-trifluoro-ethanol (347 μl, 4.77 mmol) and 4-(3-chloromethyl-benzoylamino)-4-cyano-piperidine-1-carboxylic acid tert-butyl ester (600 mg, 1.59 mmol) in DMF (8 ml) at 0° C. The mixture was stirred at room temperature overnight, and then quenched with water and diluted with ethyl acetate. The organic layer was sequentially washed with a saturated aqueous NaHCO3 solution, water (×2) and saturated brine, and then dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1→1/2) to give 4-cyano-4-[3-(2,2,2-trifluoro-ethoxymethyl)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester as a white solid (366 mg, 52%).

reactant | Sodium hydride | 4.77 mmol, 191 mg | [H-].[Na+]
reactant | 2,2,2-trifluoro-ethanol | 4.77 mmol, 347 μl | FC(CO)(F)F | C2H3F3O
reactant | 4-(3-chloromethyl-benzoylamino)-4-cyano-piperidine-1-carboxylic acid tert-butyl ester | 1.59 mmol, 600 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#N)NC(C1=CC(=CC=C1)CCl)=O | C19H24ClN3O3
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-cyano-4-[3-(2,2,2-trifluoro-ethoxymethyl)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester | 366 mg, 52% | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC(C1=CC(=CC=C1)COCC(F)(F)F)=O)C#N | C21H26F3N3O4
